US09388189B2
c) (S)-4-Amino-N-(3-methoxybenzyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (92 mg, 0.34 mmol), 4-amino-6-chloro-N-(3-methoxybenzyl)pyrimidine-5-carboxamide (100 mg, 0.34 mmol), DIEA (360 μl, 2.07 mmol) and cesium fluoride (157 mg, 1.03 mmol) were suspended in tert-butanol (10 ml) and the mixture was heated to reflux for 48 h. The solvent was evaporated under reduced pressure and the crude was diluted with ethyl acetate and washed with saturated ammonium chloride solution and brine. After evaporation of the solvent, the residue was purified by flash chromatography using SP1® Purification System (0% to 40%, dichloromethane-ethyl acetate) to obtain 106 mg (59% yield) of the title compound.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.34 mmol, 92 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 4-amino-6-chloro-N-(3-methoxybenzyl)pyrimidine-5-carboxamide | 0.34 mmol, 100 mg | NC1=NC=NC(=C1C(=O)NCC1=CC(=CC=C1)OC)Cl | C13H13ClN4O2
reactant | DIEA | 2.07 mmol, 360 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | cesium fluoride | 1.03 mmol, 157 mg | [F-].[Cs+]
solvent | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | (S)-4-Amino-N-(3-methoxybenzyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 106 mg, 59% yield | NC1=NC=NC(=C1C(=O)NCC1=CC(=CC=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C28H28N8O3
